US08222260B2
2-Benzylthio-6-anilinopurine
2-Benzylthio-6-chloropurine (3.9 g) and aniline (3.42 g) in n-BuOH (100 ml) in the presence of triethylamine (7.5 ml) were refluxed for 2 h. Reaction mixture was cooled to room temperature, dried at a rotary vacuum evaporator, cooled with ice and 400 ml water was added with vigorous shaking. At standing overnight at −16° C. crude dark-brown solid was formed, which was dried into constant weight and chromatographically purified over 100 g silica packed in chloroform. The column was eluted with 500 ml 100% chloroform followed by 500 ml 1.25% MeOH/chloroform and then 1.5 L 2.5% MeOH/chloroform; 100 ml fractions collected and fractions 12 to 15 were dried to yield light-brown solid which were recrystallized from MeOH in the presence of active carbon. Yield 1.18 g of white, amorphous solid. TLC (2.5% MeOH/chloroform) shows only a single spot with no contaminants. HPLC purity: 98+%.

reactant | 2-Benzylthio-6-chloropurine | 3.9 g | C(C1=CC=CC=C1)SC1=NC(=C2NC=NC2=N1)Cl | C12H9ClN4S
reactant | aniline | 3.42 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
solvent | n-BuOH | 100 ml | CCCCO | C4H10O
product | 2-Benzylthio-6-anilinopurine | C(C1=CC=CC=C1)SC1=NC(=C2NC=NC2=N1)NC1=CC=CC=C1 | C18H15N5S
